US09085540B2
To a mixture of 1-methyl-4-[1-(4-nitrophenyl)piperidin-4-yl]piperazine (4.84 g) and 1,2-dichloroethane (50 mL) was added 1-chloroethyl chloroformate (2.2 mL), followed by stirring at 90° C. for 3 hours. The solvent was evaporated under reduced pressure and then methanol (85 mL) was added thereto, followed by heating and refluxing for 1 hour. The solvent was evaporated under reduced pressure and the obtained residue was washed with ethyl acetate to obtain 1-[1-(4-nitrophenyl)piperidin-4-yl]piperazine monohydrochloride (3.74 g) as a yellow solid.

reactant | 1-methyl-4-[1-(4-nitrophenyl)piperidin-4-yl]piperazine | 4.84 g | CN1CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H24N4O2
reactant | 1-chloroethyl chloroformate | 2.2 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | 1-[1-(4-nitrophenyl)piperidin-4-yl]piperazine monohydrochloride | 3.74 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CCNCC1 | InChI=1S/C15H22N4O2.ClH/c20-19(21)15-3-1-13(2-4-15)17-9-5-14(6-10-17)18-11-7-16-8-12-18;/h1-4,14,16H,5-12H2;1H
